US04959361
2-(3-Butyn-1-yl)-1H-benz[de]isoquinoline-1,3(2H)-dione
A mixture of 6 g (0.03 mol) of 1H-benz[de]isoquinoline-1,3(2H)-dione. 4 g (0.0355 mol) of potassium t-butoxide, 9 g (0.04 mol of 4-tosyloxy-1-butyne [ref. G. Eglinton and M. C. Whiting, J. Chem. Soc. 3650 (1950)] and 150 ml of dimethylformamide was heated on the steam bath with stirring for 1.5 hours. The bulk of the solvent was then removed under reduced pressure and the remaining suspension was filtered. The filtrate was diluted with water and the precipitated product was collected by filtration and dissolved in methylene chloride. The solution was dried and passed over a plug of silica gel using methylene chloride for elution. The fractions containing clean product were combined and evaporated. Crystallization from methylene chloride/ethanol gave the title compound as colorless needles with m.p. 191°-193° C.

reactant | 1H-benz[de]isoquinoline-1,3(2H)-dione | 0.03 mol, 6 g | C1(NC(C2=C3C(C=CC=C13)=CC=C2)=O)=O | C12H7NO2
reactant | potassium t-butoxide | 0.0355 mol, 4 g | CC(C)([O-])C.[K+]
reactant | 4-tosyloxy-1-butyne | 0.04 mol | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC#C | C11H12O3S
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-(3-Butyn-1-yl)-1H-benz[de]isoquinoline-1,3(2H)-dione | C(CC#C)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C16H11NO2
